US07375125B2
Synthesis of 2-(2-naphthalene-1-yl-ethyl)-benzonitrile:
A solution of the nitrile (2 mL, 1.0 equiv) and HMPA (3.3 mL, 1.1 equiv) in THF (50 mL) was cooled to −78° C. under an atmosphere of argon. To this solution was added LDA (2 M in THF, 9.4 mL, 1.1 equiv). The dark red solution was allowed to stir for 15 min and then 1-chloromethylnaphthalene (3.3 g, 1.1 equiv) was added. The reaction was quenched after 1.5 hr by the addition of saturated aqueous NH4Cl. The mixture was diluted with EtOAc and water, the organic and aqueous phases separated, and the organic phase further washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (SiO2, 10% EtOAc in hexane) to give the desired product (2.06 g, 47%).

reactant | HMPA | 3.3 mL, 1.1 equiv | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | LDA | 2 M, 9.4 mL, 1.1 equiv | [Li+].CC(C)[N-]C(C)C
reactant | 1-chloromethylnaphthalene | 3.3 g, 1.1 equiv | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2-naphthalene-1-yl-ethyl)-benzonitrile | 2.06 g, 47% | C1(=CC=CC2=CC=CC=C12)CCC1=C(C#N)C=CC=C1 | C19H15N
